US05547972
In a similar manner to Example 70, 5-chloro-N-(4-chlorobenzyl)valeramide (10.3 g, prepared from 4-chlorobenzylamine and 5-chlorovaleryl chloride) and 2-methylimidazole (6.5 g) were reacted together to give N-(4-chlorobenzyl)-5-(2-methylimidazol-1-yl) valeramide, (6.5 g) , m.p. 72°-75° C. which was reduced with borane/THF (86 ml, 1M) to give N-(4-chlorobenzyl)-5-(2-methylimidazol-1-yl)pentylamine, b.p. 170°-185° C. (0.1 mmHg).

reactant | 5-chloro-N-(4-chlorobenzyl)valeramide | 10.3 g | ClCCCCC(=O)NCC1=CC=C(C=C1)Cl | C12H15Cl2NO
reactant | 2-methylimidazole | 6.5 g | CC=1NC=CN1 | C4H6N2
product | N-(4-chlorobenzyl)-5-(2-methylimidazol-1-yl) valeramide | 6.5 g | ClC1=CC=C(CNC(CCCCN2C(=NC=C2)C)=O)C=C1 | C16H20ClN3O
